US09334285B2
NBS (25 g, 140 mmol) is added to a stirred solution of ethyl 3H-imidazole-4-carboxylate (I-17) in 1.4 L of MeCN. The reaction mixture is stirred for 12 h in the dark, then is concentrated and purified by silica chromatography (0-70% EtOAc in heptane) to provide 17 g (65 mmol) of ethyl 3H-imidazole-4-carboxylate ethyl 4-bromo-1H-imidazole-5-carboxylate (I-18) as a white solid. This material is stirred with 11 g (78 mmol) of K2CO3 and 8.5 mL (71 mmol) of benzyl bromide in 200 mL of DMF for 12 h. The reaction is diluted with water and extracted with three times with EtOAc. Extracts are combined, washed with brine, dried over Na2SO4, filtered, concentrated and purified via silica chromatography (0-50% EtOAc in heptane) to provide 9.6 g (31 mmol) of ethyl 3-benzyl-5-bromo-imidazole-4-carboxylate (I-19) as a colorless oil that solidified upon standing.

reactant | NBS | 140 mmol, 25 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | ethyl 3H-imidazole-4-carboxylate | N1=CNC(=C1)C(=O)OCC | C6H8N2O2
solvent | MeCN | 1.4 L | CC#N | C2H3N
product | ethyl 3H-imidazole-4-carboxylate ethyl 4-bromo-1H-imidazole-5-carboxylate | 65 mmol, 17 g | C(C)OC(=O)C1=C(N=CN1)Br.N1=CNC(=C1)C(=O)OCC | InChI=1S/C6H7BrN2O2.C6H8N2O2/c1-2-11-6(10)4-5(7)9-3-8-4;1-2-10-6(9)5-3-7-4-8-5/h3H,2H2,1H3,(H,8,9);3-4H,2H2,1H3,(H,7,8)
